US08729095B2
At room temperature under shielded light, to N,N′-diisopropylcarbodiimide (99.75 g) was added copper(I) chloride (1.57 g), and then tert-butanol (83 ml) was added dropwise over 20 minutes, followed by stirring for 4 days. The supernatant (12.7 ml) was added to a dichloromethane solution (40 ml) of 1-(ethoxycarbonyl)cyclopropanecarboxylic acid (6.37 g), and heated at reflux for 3 hours. Hexane (50 ml) was added to the reaction solution, and the precipitate was filtered off. After the filtrate was concentrated under reduced pressure, a saturated aqueous sodium hydrogen carbonate solution was added to the residue, and extracted with dichloromethane. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. After hexane was added to the resulting residue, the precipitate was filtered off, and the filtrate was concentrated. The resulting residue was dissolved in tetrahydrofuran (25 ml), and 1 N aqueous sodium hydroxide solution (25 ml) was added, and stirred at room temperature overnight. After the reaction solution was concentrated under reduced pressure, 1 N aqueous sodium hydroxide solution (15 ml) was added to the residue, and washed with dichloromethane. A 10% aqueous citric acid solution was added to the aqueous layer to render it acidic, and extracted with dichloromethane. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to afford 1-(tert-butoxycarbonyl)cyclopropanecarboxylic acid (1.80 g).

reactant | N,N′-diisopropylcarbodiimide | 99.75 g | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | tert-butanol | 83 ml | C(C)(C)(C)O | C4H10O
reactant | dichloromethane | 40 ml | ClCCl | CH2Cl2
reactant | 1-(ethoxycarbonyl)cyclopropanecarboxylic acid | 6.37 g | C(C)OC(=O)C1(CC1)C(=O)O | C7H10O4
catalyst | copper(I) chloride | 1.57 g | [Cu]Cl
solvent | Hexane | 50 ml | CCCCCC | C6H14
product | 1-(tert-butoxycarbonyl)cyclopropanecarboxylic acid | 1.80 g | C(C)(C)(C)OC(=O)C1(CC1)C(=O)O | C9H14O4
